US06495576B2
Ethyl Oxo(3-Pyridinylamino)acetate
To a solution 3-aminopyridine (3.00 g, 27.0 mmol) in methylene chloride (110 mL) at 23 ° C. was added triethylamine (7.53 mL, 54.0 mmol) and N,N-dimethylarninopyridine (330 mg, 2.70 mmol). The solution was cooled to 0° C. and chloroethyloxalate 4.42 g, 32.4 mmol) was added in a dropwise fashion. The reaction mixture was stirred at 0° C. for 2 hours and then quenched with water (30 mL) and partitioned. The organic portion was washed with 10% sodium bicarbonate solution (30 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide 4.30 g of the title compound.

reactant | 3-aminopyridine | 27.0 mmol, 3.00 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 54.0 mmol, 7.53 mL | C(C)N(CC)CC | C6H15N
reactant | chloroethyloxalate | 32.4 mmol, 4.42 g | ClCCOC(C(=O)[O-])=O
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
product | Ethyl Oxo(3-Pyridinylamino)acetate | 4.30 g | O=C(C(=O)OCC)NC=1C=NC=CC1 | C9H10N2O3
